US04257802
To a mixture, 1.5 g of 2-methylamino-4-methoxy-6-methylpyrimidine in 50 ml of acetonitrile is added 1.9 g of 2-thiophenesulfonyl isocyanate. Filtration affords N-[N-(4-methoxy-6-methylpyrimidin-2-yl)-N-methylaminocarbonyl]-2-thiophene sulfonamide.

reactant | 2-methylamino-4-methoxy-6-methylpyrimidine | 1.5 g | CNC1=NC(=CC(=N1)OC)C | C7H11N3O
reactant | 2-thiophenesulfonyl isocyanate | 1.9 g | S1C(=CC=C1)S(=O)(=O)N=C=O | C5H3NO3S2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-[N-(4-methoxy-6-methylpyrimidin-2-yl)-N-methylaminocarbonyl]-2-thiophene sulfonamide | COC1=NC(=NC(=C1)C)N(C(=O)NS(=O)(=O)C=1SC=CC1)C | C12H14N4O4S2
